US07291616B2
Using the method described for the synthesis of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine, 5-chloro-2-ethoxybenzoic acid afforded 2,4-dichloro-6-(5-chloro-2-ethoxy-phenyl)-[1,3,5]triazine (9.5 g, 31% yield). 1H NMR (DMSO-d6) 7.62-7.86 (m, 2H), 7.20-7.31 (m, 1H), 4.20 (m, 2H), 1.37 (m, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 5-chloro-2-ethoxybenzoic acid | ClC=1C=CC(=C(C(=O)O)C1)OCC | C9H9ClO3
product | 2,4-dichloro-6-(5-chloro-2-ethoxy-phenyl)-[1,3,5]triazine | 9.5 g, 31% yield | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)OCC | C11H8Cl3N3O
